US07723538B2
2-Methoxy-4-[3-(3-trifluoromethyl-benzenesulfonylamino)-benzoylamino]-benzoic acid, MS (ISP): m/e=493.3 (M−H), was prepared in analogy to example 1, steps A to D. Step A was performed using 4-amino-2-methoxy-benzoic acid ethyl ester and yielded 2-methoxy-4-(3-nitro-benzoylamino)-benzoic acid ethyl ester. This was reduced to 4-(3-amino-benzoylamino)-2-methoxy-benzoic acid ethyl ester in step B. This was coupled with 3-trifluoromethyl-benzenesulfonyl chloride in step C, yielding 2-methoxy-4-[3-(3-trifluoromethyl-benzenesulfonylamino)-benzoylamino]-benzoic acid ethyl ester, which was hydrolyzed in step D.

reactant | 4-(3-amino-benzoylamino)-2-methoxy-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N)=O)OC)=O | C17H18N2O4
reactant | 3-trifluoromethyl-benzenesulfonyl chloride | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | 2-methoxy-4-[3-(3-trifluoromethyl-benzenesulfonylamino)-benzoylamino]-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)NC(C1=CC(=CC=C1)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)=O)OC)=O | C24H21F3N2O6S
